US06624196B2
In a manner similar to that described in Example 3, thiophen-2-yl-carbonyl chloride (0.049 g, 0.00033 mol) was allowed to react with 4-(4-amino-phenyl)-4-oxo-butyric acid, methyl ester (0.052 g, 0.00025 mol), and the resulting intermediate was hydrolyzed to give 0.061 g of 4-oxo-4-[4-(thiophen-2-yl-carbonylamino)-phenyl]-butyric acid as a yellow solid; MS-(AP+) MH+304.

reactant | thiophen-2-yl-carbonyl chloride | 0.00033 mol, 0.049 g | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | 4-(4-amino-phenyl)-4-oxo-butyric acid, methyl ester | 0.00025 mol, 0.052 g | NC1=CC=C(C=C1)C(CCC(=O)OC)=O | C11H13NO3
product | 4-oxo-4-[4-(thiophen-2-yl-carbonylamino)-phenyl]-butyric acid | 0.061 g | O=C(CCC(=O)O)C1=CC=C(C=C1)NC(=O)C=1SC=CC1 | C15H13NO4S
